US05571775
19. Preparation of 8-Amino-2-benzylthio[1,2,4]triazolo[1,5-a]pyridine
2-Benzylthio-8-nitro[1,2,4]triazolo[1,5-a]pyridine (174.0 g, 0.61 mol), iron filings (204.2 g., 3.65 mol) and acetic acid (2 L) were combined and heated with stirring at 70°-80° C. for 6 hours. The reaction mixture was cooled and diluted with water and dichloromethane. The resulting mixture was filtered through Celite®, the liquid phases in the filtrate were separated, and the aqueous layer was extracted with a little more dichloromethane. The organic phase and extract were combined and washed several times with water and then with dilute aqueous sodium hydroxide. The resulting organic solution was concentrated by evaporation under reduced pressure and the residue obtained was mixed with ether. The insoluble solids were collected by filtration and dried to obtain 106.3 g of the title compound as a brown powder melting at 116°-117° C. An additional 14.2 g of lower purity product was isolated from the ether filtrate (77 percent of theory total yield). This reduction was also carried out with iron powder and calcium chloride in aqueous ethanol and with stannous chloride in hydrochloric acid.

reactant | 2-Benzylthio-8-nitro[1,2,4]triazolo[1,5-a]pyridine | 0.61 mol, 174.0 g | C(C1=CC=CC=C1)SC1=NN2C(C(=CC=C2)[N+](=O)[O-])=N1 | C13H10N4O2S
reactant | acetic acid | 2 L | C(C)(=O)O | C2H4O2
reactant | ether | CCOCC | C4H10O
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | iron | [Fe] | Fe
product | 8-Amino-2-benzylthio[1,2,4]triazolo[1,5-a]pyridine | 106.3 g | NC=1C=2N(C=CC1)N=C(N2)SCC2=CC=CC=C2 | C13H12N4S
